US05972975
A mixture of 147 mg (0.612 mmol) of 6-(3-buten-1-yl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine and 215 mg (3.09 mmol) of hydroxylamine hydrochloride in 1.6 mL of 95% ethanol and 0.6 mL of water was heated overnight in a 100° C. oil bath. After cooling to room temperature, the solution was diluted with 25 mL of ethyl ether and washed with 15 mL of 2.5 N aqueous sodium hydroxide followed by 15 mL of saturated aqueous sodium chloride. The aqueous layers were extracted in succession with 25 mL of ethyl ether. The combined ethyl ether layers were dried (sodium sulfate), decanted, and evaporated. Flash column chromatography on 6 g of silica gel eluting with 100 mL of 1:1 ethyl acetate/dichloromethane gave 82 mg (83% yield) of 2-amino-6-(3-buten-1-yl)-4-methylpyridine as a pale yellow oil.

reactant | 6-(3-buten-1-yl)-4-methyl-2-(2,5-dimethylpyrrol-1-yl)pyridine | 0.612 mmol, 147 mg | C(CC=C)C1=CC(=CC(=N1)N1C(=CC=C1C)C)C | C16H20N2
reactant | hydroxylamine hydrochloride | 3.09 mmol, 215 mg | Cl.NO
reactant | ethyl acetate dichloromethane | 100 mL | C(C)(=O)OCC.ClCCl
solvent | ethanol | 1.6 mL | C(C)O | C2H6O
solvent | water | 0.6 mL | O | H2O
solvent | ethyl ether | 25 mL | C(C)OCC | C4H10O
product | 2-amino-6-(3-buten-1-yl)-4-methylpyridine | 82 mg, 83% yield | NC1=NC(=CC(=C1)C)CCC=C | C10H14N2
